US08536203B2
To a stirred solution of (Z)-3-(4-hydroxy-3-methoxy-5-nitrophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)acrylonitrile (0.526 g, 1.44 mmol) in 1,2-dichloroethane (10 mL) cooled in an ice-water bath was added aluminium chloride (0.24 g, 1.80 mmol) in one portion followed by pyridine (0.46 g, 5.77 mmol) dropwise. The resulting red suspension was stirred at 80° C. for two hours, then cooled to room temperature and poured onto cold 2 N aqueous hydrochloric acid (100 mL). The precipitate was filtered off, washed with water and dried to give (Z)-3-(3,4-dihydroxy-5-nitrophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)acrylonitrile, 0.308 g (61%)

reactant | (Z)-3-(4-hydroxy-3-methoxy-5-nitrophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)acrylonitrile | 1.44 mmol, 0.526 g | OC1=C(C=C(C=C1[N+](=O)[O-])\C=C(/C#N)\C=1C=NC(=CC1)C(F)(F)F)OC | C16H10F3N3O4
reactant | aluminium chloride | 1.80 mmol, 0.24 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | pyridine | 5.77 mmol, 0.46 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 2 N, 100 mL | Cl | ClH
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | (Z)-3-(3,4-dihydroxy-5-nitrophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)acrylonitrile | OC=1C=C(C=C(C1O)[N+](=O)[O-])\C=C(/C#N)\C=1C=NC(=CC1)C(F)(F)F | C15H8F3N3O4
